US04772600
2-(3-Chlorophenyl)-3-[2-(4-methyl-1-piperazinyl)-2-oxoethyl]-3H-imidazo[4,5-b]pyridine fumarate [2:3]
A stream of nitrogen gas was bubbled through a stirred solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.68 g, 0.0128 mole), 1,1'-carbonyldiimidazole (2.07 g, 0.0128 mole), and anhydrous tetrahydrofuram (70 ml) for 21/2 hrs. at room temperature. A solution of N-methylpiperazine in 10 ml of tetrahydrofuran was added (rapid drop) and stirring was continued for 4 hrs. at room temperature. The tetrahydrofuran was evaporated and the residue was dissolved in methylene chloride (75 ml). The methylene chloride solution was washed with water (2×30 ml), dried over sodium sulfate, and concentrated in vacuo. The residue was converted to the sesquifumarate salt and crystallized from isopropyl alcohol-isopropyl ether. Recrystallization twice from isopropyl alcohol-isopropyl ether gave 3.2 g (46%) of a white solid, mp 190°-193° C. with decomposition.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0128 mole, 3.68 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0128 mole, 2.07 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(3-Chlorophenyl)-3-[2-(4-methyl-1-piperazinyl)-2-oxoethyl]-3H-imidazo[4,5-b]pyridine fumarate | 3.2 g, 46% | C(\C=C\C(=O)O)(=O)O.ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)N1CCN(CC1)C | InChI=1S/C19H20ClN5O.C4H4O4/c1-23-8-10-24(11-9-23)17(26)13-25-18(14-4-2-5-15(20)12-14)22-16-6-3-7-21-19(16)25;5-3(6)1-2-4(7)8/h2-7,12H,8-11,13H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
